Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___.
 
Chief Complaint:
Failure to thrive
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yoM w/MMP including PAF with RVR (s/p recent admit for RVR 
___, not anticoagulated due to h/o ongoing EtOH abuse s/p 
numerous falls c/b SDH, who is now referred to the ED by home 
caretaker for EtOH abuse and inability to take care of pt. The 
pt fell today, although the caretaker was able to catch him, 
resulting on only a knee abrasion. Caretaker then called EMS.  
.  
In the E.D., VS: 98.7 61 110/61 99%RA. Exam unremarkable other 
than MS slightly altered, reportedly at baseline. Labs showed 
new hyponatremia to 125. EKG revealed sinus arrhythmia with 
frequent PACs, but not in fib. CXR was without infiltrate. U/A 
was clean; urine tox screen was negative, serum tox screen was + 
for EtOH (259). Given h/o SDH, a CT head was performed, which 
was negative for bleeding. He was admitted to medicine for FTT, 
caregiver inability to provide adequate support at home.  
.  
Currently, the patient is drunk but alert and cooperative. 
States he is in his USOH, can't remember falling today. Endorses 
drinking his usual vodka and gingerale. No F/C/N/V/D. No pain 
anywhere, no SOB.  
At baseline due to his neuropathy he is able to walk 1 block at 
most prior to sitting down.  
 
Past Medical History:
.  
PMH:  
HTN  
CAD s/p MI x 4 (per pt 3 in 1 week)  
DM  
Hypercholesterolemia  
ICH  
Diabetes - w/neuropathy; uses wheelchair mostly, attempts 
transfer with walker but has fallen more recently  
PVD -- sees Dr. ___  
___ aflutter/a tach  
Colon Ca -- s/p partial colectomy ___, no rad or chemo; on ___  
yr follow-up schedule now -- due ___.  
Neuropathy -- progressing to R arm now; legs unchanged, uses  
Wt Loss -- ___ years  
Spinal Stenosis -- MRI done ___, no emergent issues, but  
some retrolisthesis of L4-5.  

ALL:  
amytriptyline  
"appetite stimulant"  

 
Social History:
___
Family History:
No hx of CAD or DM
sister with ___ 
 
Physical Exam:
PE:  
VITALS: 96.5 127/63 73 20 98%RA  
GEN: middle aged disheveled white male, A+Ox3, NAD  
HEENT: PERRL, EOMI, no nystagmus, OP clear, MM slightly dry  
CV: normal rate, regular rhythm with ectopy, no m/r/g  
PULM: CTAB  
ABD: Soft, NT, ND, +BS  
EXT: frail, wasted, no peripheral edema  

 
Pertinent Results:
=====ADMISSION LABS=====
___ 06:00AM   GLUCOSE-91 UREA N-4* CREAT-0.4* SODIUM-133 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-24 ANION GAP-16
___ 06:00AM   CALCIUM-8.3* PHOSPHATE-3.5 MAGNESIUM-1.9
___ 06:00AM   WBC-4.6 RBC-3.31* HGB-10.6* HCT-30.4* MCV-92 
MCH-32.0 MCHC-34.8 RDW-16.9*
___ 06:00AM   PLT COUNT-233
___ 11:30PM   GLUCOSE-108* UREA N-6 CREAT-0.5 SODIUM-125* 
POTASSIUM-4.2 CHLORIDE-90* TOTAL CO2-22 ANION GAP-17
___ 11:30PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:30PM   WBC-5.5 RBC-3.38* HGB-10.8* HCT-30.8* MCV-91 
MCH-32.0 MCHC-35.1* RDW-16.7*
___ 11:30PM   PLT COUNT-232
___ 11:30PM   ___ PTT-26.3 ___
___ 10:50PM URINE  HOURS-RANDOM CREAT-35 SODIUM-37
___ 10:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:50PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG

CT HEAD
___
IMPRESSION: No acute intracranial process.

CXR
___
FINDINGS: In comparison with the study of ___, there is little 
change.  
Specifically, no evidence of focal pneumonia or pulmonary edema. 
 
Hyperexpansion of the lungs persists. 
  
The left costophrenic angle has been excluded from the image. 

 
Brief Hospital Course:
___ yo man with multiple medical problems, including paryxosmal 
atrial fibrillation, not on anticoagulation because of ETOH 
abuse and frequent falls, hx subdural hematoma, presented with a 
near fall and failure to thrive. His care-taker stated that he 
was unable to care for him any more.   
.  
# Hyponatremia - Per history and exam, the patient appeared 
clinically hypovolemic. Na on admission was 125, and a 
calculated FeNa was 0.4%. Patient was hydrated with 1L NS via 
Banana bag overnight, and then PO intake was encouraged without 
difficulty. Repeat Na showed a return toward baseline (133.) 
Patient will need to follow-up with his PCP ___ 1 week to 
re-check his Na level.
.  
# Failure to thrive - per history, the patient has had a history 
of weight loss for more than ___ years. After reviewing OMR notes, 
the patient appears to be at his baseline functional status. 
Patient was assessed by Physical/Occupational therapy and 
recommended a home safety evaluation, which patient refused. 
Patient was also seen by the Addictions specialist, who 
confirmed patient's continued refusal to consider rehab. 
.  
# CAD - Pt has had a history of multiple myocardial infarctions. 
However, pt has had no chest pain, diaphoresis, shortness of 
breath, or any other systems consistent with an ischemic event.  
Pt was continued on his home doses of ASA, Clopidogrel, Toprol 
XL, and Atorvastatin.
.  
# Hx of paroxysmal atrial fibrillation, atrial tachycardia: 
Recent holter prior to admission confirms PAF and predominant 
sinus arrhythmia/atrial tachycardia, but pt has been 
asymptomatic throughout his stay. He was not on Warfarin at 
admission secondary to his history of subdural hematoma, falls, 
and ETOH abuse. Toprol XL was continued for rate control, and pt 
was monitored on telemetry.  
.  
# ETOH abuse: Pt was admitted in an intoxicated state. Only ETOH 
was positive on serum toxicology and urine screen. Pt denied a 
history of withdrawal, and did not exhibit any signs/symptoms of 
withdrawal during his stay. No valium was required, and CIWAS 
have remained negative. Pt was given 1L NS via banana bag, and 
started on PO Thiamine/Folate/Multivitamin afterwards. The 
Addictions specialist confirmed patient's refusal to pursue 
alcohol cessation/rehab, and was familiar with the patient's 
case from prior admissions.  The pt was encouraged to consider 
ETOH cessation, and will need to follow up further with his PCP.
.  
# DM - Pt has a long history of diabetes mellitus with 
neuropathy in his extremities. He attributes his progressive 
inability to transfer to the neuropathy in his lower 
extremities. He did not know his insulin dose, and was placed 
for the time being on Humalog insulin sliding scale. He was 
placed on qid finger sticks, and was maintained on a 
diabetic/heart healthy diet. His blood sugar levels remained 
stable and within normal limits during his stay. He will need to 
follow-up with his PCP to monitor his diabetes and neuropathy.
.  
# Depression: the patient was stable during admission. He was 
continued on his home Wellbutrin.  
.  
 
Medications on Admission:
Clopidogrel 75mg PO daily
Aspirin 325 mg PO daily
Atorvastatin 40mg PO daily
Toprol XL 200mg PO daily
Wellbutrin 75mg PO daily
Multivitamin 1 tablet PO daily
Folate 1mg PO daily
Insulin: unclear dose, administered by HCP

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Bupropion 75 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Insulin: Continue to administer as directed by your PCP.
7. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hyponatremia
Alcohol abuse
Seconary:
Atrial fibrillation with RVR
Coronary artery disease
Hypercholesterolemia
Diabetes mellitus 
Diabetic neuropathy
Peripheral vascular disease

 
Discharge Condition:
Pt was hemodynamically stable. Pt continued to be free of 
palpitations, tremors, or diaphoresis. He was tolerating PO 
intake, and was alert and oriented x 3. The pt uses a wheelchair 
and walker to transfer at baseline.

 
Discharge Instructions:
You were admitted for management of hyponatremia and alcohol 
abuse. Your hyponatremia has resolved, and was most likely 
related to dehyration. You were offered support services for 
your alcohol abuse, but you were not interested. If you are ever 
interested in the future, please do not hesitate to return to 
the hospital for support services..

Please continue to take your medications as prescribed.

If you experience any tremors, palpitations, sweating, seizures, 
visual hallucinations, or have any other concerns please call 
your MD or return to the ED. This may be a sign that you are 
withdrawing from alcohol.
 
Followup Instructions:
___